US04472433
Preparation of sodium 2-(2-amino-3-phenoxyphenyl)acetate
To a mixture of ethanol (50 ml.) and water (50 ml.) were added 2-oxo-7-phenoxyindoline (20.7 g.) and sodium hydroxide (14.8 g.). The mixture was refluxed under heating for 30 hours with stirring. After cooling, the reaction mixture was filtered and ethanol was distilled off from the filtrate. The remaining aqueous solution was adjusted to pH 8.3 with conc. hydrochloric acid and filtered. The filtrate was washed with diethyl ether and concentrated to dryness under reduced pressure. The residue was dissolved in ethanol and filtered, and the filtrate was evaporated under reduced pressure. The oily residue was crystallized with ethyl acetate. The resultant substance (17.8 g.) was dissolved in water and filtered. The filtrate was lyophilized to give powdery captioned compound (17.6 g.). mp 205° to 208° C.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 2-oxo-7-phenoxyindoline | 20.7 g | O=C1NC2=C(C=CC=C2C1)OC1=CC=CC=C1 | C14H11NO2
reactant | sodium hydroxide | 14.8 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | sodium 2-(2-amino-3-phenoxyphenyl)acetate | NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C14H13NO3.Na/c15-14-10(9-13(16)17)5-4-8-12(14)18-11-6-2-1-3-7-11;/h1-8H,9,15H2,(H,16,17);/q;+1/p-1
